US04030925
5. 1-Acetyl-2-(4-benzalaminophenyl)hydrazine
1-Acetyl-2-(4-aminophenyl)hydrazine (8.25 g, 0.05 mole) and benzaldehyde (5.3 g, 0.05 mole) were mixed in ethanol (50 ml). The mixture was stirred thoroughly and was warmed to approximately 75° C for one-half hour. The addition product precipitated out of the reaction mixture. The mixture was chilled in ice and then filtered. The solid was washed with ether and dried. The product was a white crystalline powder. Yield 12.0 g (94%), m.p. 172°-174° C.

reactant | 1-Acetyl-2-(4-aminophenyl)hydrazine | 0.05 mole, 8.25 g | C(C)(=O)NNC1=CC=C(C=C1)N | C8H11N3O
reactant | benzaldehyde | 0.05 mole, 5.3 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-Acetyl-2-(4-benzalaminophenyl)hydrazine | C(C)(=O)NNC1=CC=C(C=C1)N=CC1=CC=CC=C1 | C15H15N3O
